US04436892
1-(2,6-Dichlorobenzoyl)-2-phenyl-imidazole
173 g of 2-phenylimidazole are dissolved in 600 ml of tetrahydrofuran. To this solution are added dropwise at boiling temperature 129.4 g of 2,6-dichlorobenzoyl chloride, dissolved in 400 ml of tetrahydrofuran, and the mixture is refluxed for 1 hour. The phenylimidazole hydrochloride which precipitates is separated at room temperature by vacuum filtration. The solvent of the filtrate is subsequently removed in the rotary evaporator, and the residue is recrystallised from 600 ml of acetonitrile. The yield after filtration with suction, washing with acetonitrile and drying is 153 g (80.4% of theory) of the product, m.p. 116°-117° C. There are obtained by concentrating the mother liquor by evaporation a further 22.3 g (11.7% of theory) of the product, m.p. 110°-114° C. For the analysis, 3.0 g of the compound are recrystallised from 5 ml of acetonitrile, washed with acetonitrile and dried at 60° C. in vacuo; yield: 2.6 g, m.p. 117°-118° C.

reactant | 2-phenylimidazole | 173 g | C1(=CC=CC=C1)C=1NC=CN1 | C9H8N2
reactant | 2,6-dichlorobenzoyl chloride | ClC1=C(C(=O)Cl)C(=CC=C1)Cl | C7H3Cl3O
solvent | tetrahydrofuran | 600 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 400 ml | O1CCCC1 | C4H8O
product | 1-(2,6-Dichlorobenzoyl)-2-phenyl-imidazole | ClC1=C(C(=O)N2C(=NC=C2)C2=CC=CC=C2)C(=CC=C1)Cl | C16H10Cl2N2O
